US09023847B2
176. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid 3-chloro-benzylamide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide using 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid methyl ester instead of 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester and obtained in 9% yield. 1H NMR (DMSO-d6) 11.97 (br s, 1H), 9.67 (s, 1H), 9.01 (t, J=6.2 Hz, 1H), 8.38 (s, 1H), 7.83 (d, J=1.8 Hz, 1H), 7.73 (d, J=1.8 Hz, 1H), 7.41-7.30 (m, 5H), 6.45 (d, J=2.2 Hz, 1H), 4.49 (d, J=5.9 Hz, 2H); MS (m/z) 368 [M+H]+ (35Cl).

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | ClC=1C=C(CNC(=O)C=2SC=CC2NC=2C3=C(N=CN2)NC=C3)C=CC1 | C18H14ClN5OS
reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC=CC1NC=1C2=C(N=CN1)NC=C2 | C12H10N4O3
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid 3-chloro-benzylamide | 9% yield | ClC=1C=C(CNC(=O)C=2OC=CC2NC=2C3=C(N=CN2)NC=C3)C=CC1 | C18H14ClN5O2
